Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
morbid obesity
 
Major Surgical or Invasive Procedure:
1. Laparoscopic Roux-en-Y gastric bypass.
2. Endoscopy.

 
History of Present Illness:
___ has class III morbid obesity with weight of 255 pounds 
as
of ___ (her initial screen weight on ___ was 257.9
pounds), height of 64.75 inches and BMI of 42.8.  Her previous
weight loss efforts have included ___ "Why
Wait" program x 2 in ___ and ___ losing 13 and 25 pounds
respectively, Weight Watchers many times losing up to 20 pounds,
___ losing 20 pounds, Nutrisystem losing 10 pounds, 
___ diet losing 5 pounds, hypnosis for 2 to 3 months losing 10
pounds, Overeaters Anonymous (OA) without results and numerous
visitations with a registered dietitian with variable results. 

 
Past Medical History:
PMH
1. hypertension
2. type 2 diabetes followed at the ___ with 
hemoglobin A1c of 8.0%
3. obstructive sleep apnea on CPAP at setting of 13
4. GERD
5. hyperlipidemia
6. thyroid nodule
7. fibroids
8. endometriosis 
9. iron deficiency anemia 
PSH
1. excision of thyroid nodule in ___
2. D&C in ___
3. endometrial ablation in ___

 
Social History:
___
Family History:
father living age ___ with heart disease, diabetes and obesity; 
mother living age ___ with thyroid CA, stroke; brother living age 
___ with obesity and diabetes
 
Physical Exam:
Blood pressure was 132/77, pulse 78, respirations 14 and O2
saturation 96% on room air.  On physical examination ___ was
casually dressed, pleasant and in no distress.  Her skin was
warm, dry with no rashes or lesions. Sclerae were anicteric,
conjunctiva clear, pupils were equal round and reactive to 
light,
fundi were normal with no evidence of retinopathy, mucous
membranes were moist, tongue was pink and the oropharynx was
without exudates or hyperemia.  Trachea was in the midline and
the neck was supple with full range of motion, there was a small
healed incision scar anterior neck, no adenopathy, thyromegaly 
or
carotid bruits.  Chest was symmetric and the lungs were clear to
auscultation bilaterally with good air movement.  Cardiac exam
was regular rate and rhythm with normal S1 and S2, there was a
soft I/VI systolic murmur barely heard left upper sternal border
without radiation to the axilla or neck.  Abdomen was obese but
soft and non-tender, non-distended with positive bowel sounds 
and
no appreciable masses or hernias there was a well-healed lower
transverse incision scar.  There was no spinal tenderness or
flank pain.  Lower extremities were noted for trace edema, no
venous stasis or clubbing and perfusion was good.  There was no
evidence of joint inflammation or swelling of the joints.  There
were no focal neurological deficits and her gait was normal.

 
Pertinent Results:
___ Abdominal US : Normal abdominal ultrasound.

___ UGI : No evidence of leak or obstruction following 
gastric bypass. 
  

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a laparoscopic gastric 
bypass.  She tolerated the procedure well and returned to the 
PACU in stable condition.  She maintained stable hemodynamics 
and her pain was controlled adequately with a Dilaudid PCA.
Following transfer to the Surgical floor she continued to make 
good progress.  She had an upper GI on post op day # 1 which 
showed no anastomotic leak and she subsequently advanced her 
diet over the next ___ hours to stage 3.  She tolerated that well 
without any nausea or fullness.  She was up and walking without 
assistance and her surgical sites were dry.
Post operatively her blood sugars were in the 170-220 range.  
Her metformin was resumed but her Levimir and Apidra insulin was 
held.  She will check her blood sugars 4 times a day and record 
them.  She was instructed to call her ___ physician for an 
appointment next week to review her sugars, her diet and 
subsequent plan for glucose control. After an uncomplicated post 
op course she was discharged to home on ___ and will follow 
up with Dr. ___ in 2 weeks.
 
Medications on Admission:
1. Atenolol 50 mg daily 
2. Lisinopril 5 mg daily 
3. Furosemide 20 mg daily
4. Levemir insulin 30 units daily
5. Glulisine insulin 90 units daily 
6. Metformin 850 mg BID
7. Prilosec 40 mg daily
8. Lipitor 40 mg daily
9. Sertraline 50 mg daily
10. Bupropion 100 mg twice daily 
11. Ativan 0.5 mg qhs
12. Baby aspirin 81 mg daily for cardiac prophylaxis 
13. Lactobacillus acidophilus and omega-3 Fatty Acids 
14. multivitamins with minerals daily

 
Discharge Medications:
1. Roxicet ___ mg/5 mL Solution Sig: ___ ml ___ every four (4) 
hours as needed for pain.
Disp:*500 ml* Refills:*0*
2. Colace 50 mg/5 mL Liquid Sig: Ten (10) ml ___ twice a day.
Disp:*250 ml* Refills:*2*
3. Atenolol 50 mg Tablet Sig: One (1) Tablet ___ once a day: 
please crush.  
4. Lisinopril 5 mg Tablet Sig: One (1) Tablet ___ once a day: 
please crush.  
5. Metformin 850 mg Tablet Sig: One (1) Tablet ___ twice a day: 
Please crush.  
6. Prevacid SoluTab 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___ a day.
Disp:*30 Tablet,Rapid Dissolve, ___ Refills:*2*
7. Lipitor 40 mg Tablet Sig: One (1) Tablet ___ once a day: 
please crush.  
8. Sertraline 50 mg Tablet Sig: One (1) Tablet ___ once a day: 
Please crush.  
9. Bupropion HCl 100 mg Tablet Sig: One (1) Tablet ___ once a 
day: Please crush.  
10. Ativan 0.5 mg Tablet Sig: One (1) Tablet ___ at bedtime as 
needed for anxiety: Please crush.  
11. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
___ once a day.  
12. Multivitamins     Tablet, Chewable Sig: Two (2) Tablet, 
Chewable ___ once a day.  
13. Actigall 300 mg Capsule Sig: One (1) Capsule ___ twice a day: 
empty capsule in water and mix.
Disp:*60 Capsule(s)* Refills:*4*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Hyperlipidemia.
2. Morbid obesity.
3. Diabetes mellitus type 2.
4. Sleep apnea.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest pain, shortness of breath, severe abdominal pain, 
pain unrelieved by your pain medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance
diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the pain 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You will be taking Actigall 300 mg twice daily for 6 months. 
This medicine prevents you from having problems with your 
gallbladder.
4. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
5. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.
6. Check your blood sugars 4 times a day and record.  Take the 
readings to your first appointment with Dr. ___ that he 
can decide if and when you should resume your insulin based on 
your readings and your diet.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites. 

 
Followup Instructions:
___